US07521457B2
b) N-(7-amino-1-oxo-1,3-dihydro-isoindol-2-yl)-acetamide
790 mg (2.3 mmol) 2-benzyloxy-N-(7-nitro-1-oxo-1,3-dihydro-isoindol-2-yl)-acetamide are dissolved in 100 ml of methanol and combined with 80 mg palladium hydroxide. The reaction mixture is hydrogenated for 48 h at 4 bar H2 pressure and 25° C. Then the catalyst is filtered off and the solvent is eliminated in vacuo. The crude product is purified by chromatography. The carrier used is silica gel and the eluant used is a mixture of dichloromethane:methanol (90:10).

reactant | 2-benzyloxy-N-(7-nitro-1-oxo-1,3-dihydro-isoindol-2-yl)-acetamide | 2.3 mmol, 790 mg | C(C1=CC=CC=C1)OCC(=O)NN1C(C2=C(C=CC=C2C1)[N+](=O)[O-])=O | C17H15N3O5
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium hydroxide | 80 mg | [OH-].[Pd+2].[OH-]
product | N-(7-amino-1-oxo-1,3-dihydro-isoindol-2-yl)-acetamide | NC=1C=CC=C2CN(C(C12)=O)NC(C)=O | C10H11N3O2
